.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2*width_N
.global gnd vdd
.PARAM VDD_val = 1.8
.param Ton=5n
.param Tperiod={2*Ton}

V_clk clk 0 PULSE(0 1.8 {0.3*Ton} 10p 10p {Ton} {Tperiod})
V_A0 A0 gnd PULSE(0 {VDD_val} 0 100p 100p 4n 8n)
V_A1 A1 gnd PULSE(0 {VDD_val} 0 100p 100p 8n 16n)
V_A2 A2 gnd PULSE(0 {VDD_val} 0 100p 100p 16n 32n)
V_A3 A3 gnd PULSE(0 {VDD_val} 0 100p 100p 32n 64n)
V_A4 A4 gnd PULSE(0 {VDD_val} 0 100p 100p 64n 128n)

V_B0 B0 gnd PULSE(0 {VDD_val} 0 100p 100p 4n 8n)
V_B1 B1 gnd PULSE(0 {VDD_val} 0 100p 100p 8n 16n)
V_B2 B2 gnd PULSE(0 {VDD_val} 0 100p 100p 16n 32n)
V_B3 B3 gnd PULSE(0 {VDD_val} 0 100p 100p 32n 64n)
V_B4 B4 gnd PULSE(0 {VDD_val} 0 100p 100p 64n 128n)
VDD vdd gnd 1.8

.subckt inv A A_bar vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mn_inv      A_bar       A       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv      A_bar       A       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}   
.ends inv 

.subckt D_FF D clk Q vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
M3 vdd  D R vdd     CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M2 R clk X vdd      CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M1 X D gnd gnd    CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M6 vdd clk Y1 vdd    CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M10 Y1 X Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M5 Y X Z gnd        CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M4 Z clk gnd gnd  CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M9 vdd Y Q_bar vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M8 Q_bar clk P gnd  CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M7 P Y gnd gnd    CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mn_inv      Q       Q_bar       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv      Q       Q_bar       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends D_FF

.subckt XOR A B Y vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mn_inv_A      A_bar       A       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv_A      A_bar       A       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn_inv_B      B_bar       B       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv_B      B_bar       B       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_A_PUN vdd A x1 vdd CMOSP   W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
Mp_B1_PUN x1 B_bar Y vdd CMOSP   W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
Mp_A1_PUN vdd A_bar x2 vdd CMOSP   W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
Mp_B_PUN  x2 B Y vdd CMOSP   W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
Mn_A_PDN Y A x3 gnd CMOSN   W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
Mn_B_PDN x3 B gnd gnd CMOSN   W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
Mn_A1_PDN Y A_bar x4 gnd CMOSN   W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
Mn_B1_PDN x4 B_bar gnd gnd CMOSN   W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
.ends XOR

.subckt NAND_2 A B Y vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mp_A_PUN  vdd A Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_B_PUN  vdd B Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn_A_PDN Y A x gnd CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
Mn_B_PDN x B gnd gnd CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
.ends NAND_2


.subckt NAND_3 A B C Y vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mp_A_PUN  vdd A Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_B_PUN  vdd B Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_C_PUN  vdd C Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn_A_PDN Y A x1 gnd CMOSN  W={3*width_N}   L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
Mn_B_PDN x1 B x2 gnd CMOSN  W={3*width_N}   L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
Mn_C_PDN x2 C gnd gnd CMOSN  W={3*width_N}   L={2*LAMBDA}
+ AS={5*3*width_N*LAMBDA} PS={10*LAMBDA+2*3*width_N} AD={5*3*width_N*LAMBDA} PD={10*LAMBDA+2*3*width_N}
.ends NAND_3

.subckt NAND_4 A B C D Y vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mp_A_PUN  vdd A Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_B_PUN  vdd B Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_C_PUN  vdd C Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_D_PUN  vdd D Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn_A_PDN Y  A x1 gnd CMOSN  W={4*width_N}   L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
Mn_B_PDN x1 B x2 gnd CMOSN  W={4*width_N}   L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
Mn_C_PDN x2 C x3 gnd CMOSN  W={4*width_N}   L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
Mn_D_PDN x3 D gnd gnd CMOSN  W={4*width_N}   L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}
.ends NAND_4

.subckt NAND_5 A B C D E Y vdd gnd
.param LAMBDA = 0.09u
.param width_N = {20*LAMBDA}
.param width_P = {2.5*width_N}
Mp_A_PUN  vdd A Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_B_PUN  vdd B Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_C_PUN  vdd C Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_D_PUN  vdd D Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mp_E_PUN  vdd E Y vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn_A_PDN Y  A x1 gnd CMOSN  W={5*width_N}   L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
Mn_B_PDN x1 B x2 gnd CMOSN  W={5*width_N}   L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
Mn_C_PDN x2 C x3 gnd CMOSN  W={5*width_N}   L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
Mn_D_PDN x3 D x4 gnd CMOSN  W={5*width_N}   L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
Mn_E_PDN x4 E gnd gnd CMOSN  W={5*width_N}   L={2*LAMBDA}
+ AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
.ends NAND_5


X_D_FF_A0 A0 clk Q_A0 vdd gnd D_FF
X_D_FF_A1 A1 clk Q_A1 vdd gnd D_FF
X_D_FF_A2 A2 clk Q_A2 vdd gnd D_FF
X_D_FF_A3 A3 clk Q_A3 vdd gnd D_FF
X_D_FF_A4 A4 clk Q_A4 vdd gnd D_FF

X_D_FF_B0 B0 clk Q_B0 vdd gnd D_FF
X_D_FF_B1 B1 clk Q_B1 vdd gnd D_FF
X_D_FF_B2 B2 clk Q_B2 vdd gnd D_FF
X_D_FF_B3 B3 clk Q_B3 vdd gnd D_FF
X_D_FF_B4 B4 clk Q_B4 vdd gnd D_FF

X_G0_bar Q_A0 Q_B0 G0_bar vdd gnd NAND_2
X_G1_bar Q_A1 Q_B1 G1_bar vdd gnd NAND_2
X_G2_bar Q_A2 Q_B2 G2_bar vdd gnd NAND_2
X_G3_bar Q_A3 Q_B3 G3_bar vdd gnd NAND_2
X_G4_bar Q_A4 Q_B4 G4_bar vdd gnd NAND_2

X_G0 G0_bar G0 vdd gnd inv
X_G1 G1_bar G1 vdd gnd inv
X_G2 G2_bar G2 vdd gnd inv
X_G3 G3_bar G3 vdd gnd inv
X_G4 G4_bar G4 vdd gnd inv

X_P0 Q_A0 Q_B0 P0 vdd gnd XOR
X_P1 Q_A1 Q_B1 P1 vdd gnd XOR
X_P2 Q_A2 Q_B2 P2 vdd gnd XOR
X_P3 Q_A3 Q_B3 P3 vdd gnd XOR
X_P4 Q_A4 Q_B4 P4 vdd gnd XOR

X_C1 G0_bar G0_bar C1 vdd gnd NAND_2

X_P1G0 P1 G0 P1G0 vdd gnd NAND_2
X_C2 G1_bar P1G0 C2 vdd gnd NAND_2

X_P2G1 P2 G1 P2G1 vdd gnd NAND_2
X_P2P1G0 P2 P1 G0 P2P1G0 vdd gnd NAND_3
X_C3 G2_bar P2G1 P2P1G0 C3 vdd gnd NAND_3

X_P3G2 P3 G2 P3G2 vdd gnd NAND_2
X_P3P2G1 P3 P2 G1_bar P3P2G1 vdd gnd NAND_3
X_P3P2P1G0 P3 P2 P1 G0 P3P2P1G0 vdd gnd NAND_4
X_C4 G3_bar P3G2 P3P2G1 P3P2P1G0 C4 vdd gnd NAND_4

X_P4G3 P4 G3 P4G3 vdd gnd NAND_2
X_P4P3G2 P4 P3 G2 P4P3G2 vdd gnd NAND_3
X_P4P3P2G1 P4 P3 P2 G1 P4P3P2G vdd gnd NAND_4
X_P4P3P2P1G0 P4 P3 P2 P1 G0 P4P3P2P1G0 vdd gnd NAND_5
X_C5 G4_bar P4G3 P4P3G2 P4P3P2G1 P4P3P2P1G0 C5 vdd gnd NAND_5

X_S0 P0 gnd S0 vdd gnd XOR
X_S1 P1 C1  S1 vdd gnd XOR
X_S2 P2 C2  S2 vdd gnd XOR
X_S3 P3 C3  S3 vdd gnd XOR
X_S4 P4 C4  S4 vdd gnd XOR

X_D_FF_S0 S0 clk sum0 vdd gnd D_FF
X_D_FF_S1 S1 clk sum1 vdd gnd D_FF
X_D_FF_S2 S2 clk sum2 vdd gnd D_FF
X_D_FF_S3 S3 clk sum3 vdd gnd D_FF
X_D_FF_S4 S4 clk sum4 vdd gnd D_FF

X_D_FF_C5 C5 clk carry vdd gnd D_FF

.subckt output_load A A_bar vdd gnd
.param LAMBDA = 0.09u
.param width_N = {10*LAMBDA}
.param width_P = {2*width_N}
Mn_inv      A_bar       A       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv      A_bar       A       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}   
.ends output_load 

X_load_sum0 sum0 sum0_bar vdd gnd output_load
X_load_sum1 sum1 sum1_bar vdd gnd output_load
X_load_sum2 sum2 sum2_bar vdd gnd output_load
X_load_sum3 sum3 sum3_bar vdd gnd output_load
X_load_sum4 sum4 sum4_bar vdd gnd output_load

X_load_carry carry carry_bar vdd gnd output_load


.tran 10p 150n
.control
set hcopYpscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))

run
set curplottitle="2024102070 Course Project 5-bit CLA Adder with Clock Control  Simulation"

plot V(clk)
set curplottitle="5-bit CLA Adder - Clock Signal"

plot V(A0) V(A1)+2 V(A2)+4 V(A3)+6 V(A4)+8
set curplottitle="5-bit CLA Adder - Input A[4:0]"

plot V(B0) V(B1)+2 V(B2)+4 V(B3)+6 V(B4)+8
set curplottitle="5-bit CLA Adder - Input B[4:0]"

plot V(Q_A0) V(Q_A1)+2 V(Q_A2)+4 V(Q_A3)+6 V(Q_A4)+8
set curplottitle="5-bit CLA Adder - Registered A[4:0]"

plot V(Q_B0) V(Q_B1)+2 V(Q_B2)+4 V(Q_B3)+6 V(Q_B4)+8
set curplottitle="5-bit CLA Adder - Registered B[4:0]"

plot V(P0) V(P1)+2 V(P2)+4 V(P3)+6 V(P4)+8
set curplottitle="5-bit CLA Adder - Propagate P[4:0]"

plot V(G0) V(G1)+2 V(G2)+4 V(G3)+6 V(G4)+8
set curplottitle="5-bit CLA Adder - Generate G[4:0]"

plot V(C1) V(C2)+2 V(C3)+4 V(C4)+6 V(C5)+8
set curplottitle="5-bit CLA Adder - Carry Signals C[5:1]"

plot V(S0) V(S1)+2 V(S2)+4 V(S3)+6 V(S4)+8
set curplottitle="5-bit CLA Adder - Sum before FF S[4:0]"

plot V(sum0) V(sum1)+2 V(sum2)+4 V(sum3)+6 V(sum4)+8 V(carry)+10
set curplottitle="5-bit CLA Adder - Final Output Sum[4:0] and Carry"

plot V(A0) V(B0)+2 V(sum0)+4 V(clk)+6
set curplottitle="5-bit CLA Adder - Bit 0 Input-Output with Clock"


echo "****************************************************"
echo "* CLOCK-TO-Q DELAY MEASUREMENTS (Input Flip-Flops)"
echo "****************************************************"

meas tran tpd_clk_QA0_rise TRIG V(clk) VAL={half_vdd} RISE=1 TARG V(Q_A0) VAL={half_vdd} RISE=1
meas tran tpd_clk_QA0_fall TRIG V(clk) VAL={half_vdd} FALL=1 TARG V(Q_A0) VAL={half_vdd} FALL=1
meas tran tpd_clk_QB0_rise TRIG V(clk) VAL={half_vdd} RISE=1 TARG V(Q_B0) VAL={half_vdd} RISE=1

let avg_input_ff_clk_to_q = (tpd_clk_QA0_rise + tpd_clk_QA0_fall) / 2

echo "****************************************************"
echo "* PROPAGATE & GENERATE BLOCK DELAYS"
echo "****************************************************"

meas tran tpd_QA0_to_P0_rise TRIG V(Q_A0) VAL={half_vdd} RISE=1 TARG V(P0) VAL={half_vdd} RISE=1
meas tran tpd_QA0_to_P0_fall TRIG V(Q_A0) VAL={half_vdd} FALL=1 TARG V(P0) VAL={half_vdd} FALL=1
meas tran tpd_QA0_to_G0_rise TRIG V(Q_A0) VAL={half_vdd} RISE=1 TARG V(G0) VAL={half_vdd} RISE=1
meas tran tpd_QA0_to_G0_fall TRIG V(Q_A0) VAL={half_vdd} FALL=1 TARG V(G0) VAL={half_vdd} FALL=1

let avg_pg_delay = (tpd_QA0_to_P0_rise + tpd_QA0_to_G0_rise) / 2

echo "****************************************************"
echo "* CARRY PROPAGATION DELAYS"
echo "****************************************************"

meas tran tpd_G0_to_C1_rise TRIG V(G0) VAL={half_vdd} RISE=1 TARG V(C1) VAL={half_vdd} RISE=1
meas tran tpd_C1_to_C2_rise TRIG V(C1) VAL={half_vdd} RISE=1 TARG V(C2) VAL={half_vdd} RISE=1
meas tran tpd_C2_to_C3_rise TRIG V(C2) VAL={half_vdd} RISE=1 TARG V(C3) VAL={half_vdd} RISE=1
meas tran tpd_C3_to_C4_rise TRIG V(C3) VAL={half_vdd} RISE=1 TARG V(C4) VAL={half_vdd} RISE=1
meas tran tpd_C4_to_C5_rise TRIG V(C4) VAL={half_vdd} RISE=1 TARG V(C5) VAL={half_vdd} RISE=1

let total_carry_delay = tpd_G0_to_C1_rise + tpd_C1_to_C2_rise + tpd_C2_to_C3_rise + tpd_C3_to_C4_rise + tpd_C4_to_C5_rise

echo "****************************************************"
echo "* SUM GENERATION DELAYS"
echo "****************************************************"

meas tran tpd_P0_to_S0_rise TRIG V(P0) VAL={half_vdd} RISE=1 TARG V(S0) VAL={half_vdd} RISE=1
meas tran tpd_P0_to_S0_fall TRIG V(P0) VAL={half_vdd} FALL=1 TARG V(S0) VAL={half_vdd} FALL=1
meas tran tpd_C1_to_S1_rise TRIG V(C1) VAL={half_vdd} RISE=1 TARG V(S1) VAL={half_vdd} RISE=1
meas tran tpd_C2_to_S2_rise TRIG V(C2) VAL={half_vdd} RISE=1 TARG V(S2) VAL={half_vdd} RISE=1
meas tran tpd_C3_to_S3_rise TRIG V(C3) VAL={half_vdd} RISE=1 TARG V(S3) VAL={half_vdd} RISE=1
meas tran tpd_C4_to_S4_rise TRIG V(C4) VAL={half_vdd} RISE=1 TARG V(S4) VAL={half_vdd} RISE=1

let avg_sum_delay = (tpd_C1_to_S1_rise + tpd_C2_to_S2_rise + tpd_C3_to_S3_rise + tpd_C4_to_S4_rise) / 4

echo "****************************************************"
echo "* OUTPUT FLIP-FLOP DELAYS"
echo "****************************************************"

meas tran tpd_clk_sum0_rise TRIG V(clk) VAL={half_vdd} RISE=2 TARG V(sum0) VAL={half_vdd} RISE=1
meas tran tpd_clk_sum1_rise TRIG V(clk) VAL={half_vdd} RISE=3 TARG V(sum1) VAL={half_vdd} RISE=1
meas tran tpd_clk_sum2_rise TRIG V(clk) VAL={half_vdd} RISE=4 TARG V(sum2) VAL={half_vdd} RISE=1
meas tran tpd_clk_carry_rise TRIG V(clk) VAL={half_vdd} RISE=2 TARG V(carry) VAL={half_vdd} RISE=1

let avg_output_ff_clk_to_q = (tpd_clk_sum0_rise + tpd_clk_sum1_rise) / 2

echo "****************************************************"
echo "* CRITICAL PATH ANALYSIS"
echo "****************************************************"

meas tran comb_delay_QA0_S0 TRIG V(Q_A0) VAL={half_vdd} RISE=1 TARG V(S0) VAL={half_vdd} RISE=1
meas tran comb_delay_QA1_S1 TRIG V(Q_A1) VAL={half_vdd} RISE=1 TARG V(S1) VAL={half_vdd} RISE=1
meas tran comb_delay_QA2_S2 TRIG V(Q_A2) VAL={half_vdd} RISE=1 TARG V(S2) VAL={half_vdd} RISE=1
meas tran comb_delay_QA3_S3 TRIG V(Q_A3) VAL={half_vdd} RISE=1 TARG V(S3) VAL={half_vdd} RISE=1
meas tran comb_delay_QA4_S4 TRIG V(Q_A4) VAL={half_vdd} RISE=1 TARG V(S4) VAL={half_vdd} RISE=1
meas tran comb_delay_QA4_C5 TRIG V(Q_A4) VAL={half_vdd} RISE=1 TARG V(C5) VAL={half_vdd} RISE=1

let worst_comb_delay = maximum(comb_delay_QA4_S4, comb_delay_QA4_C5)

let total_critical_path = avg_input_ff_clk_to_q + worst_comb_delay + avg_output_ff_clk_to_q

echo "****************************************************"
echo "* FUNCTIONAL VERIFICATION - TEST CASES"
echo "****************************************************"

meas tran sum0_tc1 FIND V(sum0) AT=108n
meas tran sum1_tc1 FIND V(sum1) AT=108n
meas tran sum2_tc1 FIND V(sum2) AT=108n
meas tran sum3_tc1 FIND V(sum3) AT=108n
meas tran sum4_tc1 FIND V(sum4) AT=108n
meas tran carry_tc1 FIND V(carry) AT=108n

echo "Test Case 1: 00001 + 00001 = 00010"
echo "Expected: Sum=00010, Carry=0"

meas tran sum0_tc2 FIND V(sum0) AT=124n
meas tran sum1_tc2 FIND V(sum1) AT=124n
meas tran sum2_tc2 FIND V(sum2) AT=124n
meas tran sum3_tc2 FIND V(sum3) AT=124n
meas tran sum4_tc2 FIND V(sum4) AT=124n
meas tran carry_tc2 FIND V(carry) AT=124n

echo "Test Case 2: 00011 + 00011 = 00110"
echo "Expected: Sum=00110, Carry=0"

meas tran sum0_tc3 FIND V(sum0) AT=140n
meas tran sum1_tc3 FIND V(sum1) AT=140n
meas tran sum2_tc3 FIND V(sum2) AT=140n
meas tran sum3_tc3 FIND V(sum3) AT=140n
meas tran sum4_tc3 FIND V(sum4) AT=140n
meas tran carry_tc3 FIND V(carry) AT=140n

echo "Test Case 3: 00111 + 00111 = 01110"
echo "Expected: Sum=01110, Carry=0"


echo "****************************************************"
echo "* DETAILED TIMING REPORT"
echo "****************************************************"

echo ""
echo "=== INPUT FLIP-FLOP TIMING ==="
print tpd_clk_QA0_rise tpd_clk_QA0_fall avg_input_ff_clk_to_q

echo ""
echo "=== PROPAGATE & GENERATE TIMING ==="
print tpd_QA0_to_P0_rise tpd_QA0_to_P0_fall
print tpd_QA0_to_G0_rise tpd_QA0_to_G0_fall
print avg_pg_delay

echo ""
echo "=== CARRY CHAIN TIMING ==="
print tpd_G0_to_C1_rise
print tpd_C1_to_C2_rise
print tpd_C2_to_C3_rise
print tpd_C3_to_C4_rise
print tpd_C4_to_C5_rise
print total_carry_delay

echo ""
echo "=== SUM GENERATION TIMING ==="
print tpd_P0_to_S0_rise tpd_P0_to_S0_fall
print tpd_C1_to_S1_rise tpd_C2_to_S2_rise
print tpd_C3_to_S3_rise tpd_C4_to_S4_rise
print avg_sum_delay

echo ""
echo "=== OUTPUT FLIP-FLOP TIMING ==="
print tpd_clk_sum0_rise tpd_clk_sum1_rise
print tpd_clk_sum2_rise tpd_clk_carry_rise
print avg_output_ff_clk_to_q

echo ""
echo "=== COMBINATIONAL PATH DELAYS ==="
print comb_delay_QA0_S0
print comb_delay_QA1_S1
print comb_delay_QA2_S2
print comb_delay_QA3_S3
print comb_delay_QA4_S4
print comb_delay_QA4_C5
print worst_comb_delay

echo ""
echo "=== CRITICAL PATH ANALYSIS ==="
print total_critical_path

let min_clock_period = total_critical_path + 500p
let max_frequency_MHz = 1000 / min_clock_period
let max_frequency_GHz = max_frequency_MHz / 1000

echo ""
echo "=== MAXIMUM OPERATING FREQUENCY ==="
echo "Minimum Clock Period (including 500ps margin):"
print min_clock_period
echo "Maximum Operating Frequency (MHz):"
print max_frequency_MHz
echo "Maximum Operating Frequency (GHz):"
print max_frequency_GHz

echo ""
echo "=== FUNCTIONAL VERIFICATION RESULTS ==="
echo "Test Case 1 (00001 + 00001):"
print sum0_tc1 sum1_tc1 sum2_tc1 sum3_tc1 sum4_tc1 carry_tc1
echo "Test Case 2 (00011 + 00011):"
print sum0_tc2 sum1_tc2 sum2_tc2 sum3_tc2 sum4_tc2 carry_tc2
echo "Test Case 3 (00111 + 00111):"
print sum0_tc3 sum1_tc3 sum2_tc3 sum3_tc3 sum4_tc3 carry_tc3

echo "****************************************************"
echo "* SIMULATION COMPLETE"
echo "****************************************************"

.endc